US03952031
3α-Hydroxy-2β-methyl-5α-pregnane-11,20-dione
A 1.6 molar solution of methyl lithium in ether (30 ml.) was added to a stirred suspension of cuprous iodide (4.56 g.) in dry ether (100 ml.) under nitrogen at -20°. A cold solution of 2α,3α-epoxy-5α-pregnane-11,20-dione (1.33 g.) in dry ether (20 ml.) was then added and the mixture was maintained at 0° for 40 hours and then at room temperature for 4 hours. The mixture was then poured into aqueous ammonium chloride solution and extracted into ethyl acetate. The organic extract was washed with water, dried (MgSO4) and evaporated in vacuo. The residue (2.9 g.) was purified by preparative TLC and crystallisation from methyl acetate/petroleum ether to give the title compound (0.5 g.) m.p. 142°-146° [α]D + 121+ (c 0.8).

reactant | methyl lithium | C[Li]
reactant | 2α,3α-epoxy-5α-pregnane-11,20-dione | 1.33 g | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C | C21H30O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3α-Hydroxy-2β-methyl-5α-pregnane-11,20-dione | 0.5 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1C)C)=O)C | C22H34O3
